US04871771
(a) 2-Undecyloxy-5-nitrobenzaldehyde
5-Nitrosalicylaldehyde (1.7 g, 10 mm) was dissolved in 20 ml dry DMF and K2CO3 (2.2 g, 16 mm) was added cautiously. The reaction was stirred at room temperature for 20 minutes and 1-bromoundecane (2.6 g, 11 mm), in 20 ml dry DMF, was added dropwise to the mixture. The reaction was heated at 89° C. for 3 days, cooled and poured into 100 ml H2O. The product was extracted with diethyl ether, washed with 5% aqueous Na2CO3 and brine, and dried over MgSO4. Filtration and evaporation of the solvent yielded an oil which was chromatographed over silica gel using 10% ethylacetate/hexane. This yielded an oil which crystallized upon scratching. The resulting white solid melted at 47°-48° C.

reactant | 5-Nitrosalicylaldehyde | 1.7 g | [N+](=O)([O-])C1=CC=C(C(C=O)=C1)O | C7H5NO4
reactant | K2CO3 | 2.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromoundecane | 2.6 g | BrCCCCCCCCCCC | C11H23Br
reactant | H2O | 100 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-Undecyloxy-5-nitrobenzaldehyde | C(CCCCCCCCCC)OC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C18H27NO4
